US06300334B1
d) 6-[(1H-Benzimidazol-1-yl)methyl]-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Benzimidazole (0.395 g) and potassium carbonate (1 g) were added to a stirred solution of 6-(chloromethyl)-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (0.55 g) in anhydrous dimethylformamide (5 ml) at room temperature. After 2 days, water (50 ml) was added and the mixture was extracted with ethyl acetate (2×50 ml). The organic extracts were dried over anhydrous magnesium sulfate and filtered through a silica pad which was washed with ethyl acetate. The filtrate was evaporated and the residue was purified twice by normal-phase preparative HPLC with gradient dichloromethane/ethanol elution to give the title compound (0.394 g) as a foam.

reactant | Benzimidazole | 0.395 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(chloromethyl)-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.55 g | ClCC1=CC2=C(N(C(N(C2=O)C)=O)C(C)C)S1 | C11H13ClN2O2S
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-[(1H-Benzimidazol-1-yl)methyl]-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.394 g | N1(C=NC2=C1C=CC=C2)CC2=CC1=C(N(C(N(C1=O)C)=O)C(C)C)S2 | C18H18N4O2S
